US09034880B2
Preparation of 5-[2-(4-Ethoxy-phenyl)-ethyl]-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound 333)
2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.2 g, 0.001 mol) was dissolved in N-methyl 2-pyrolidone (3.0 mL). Powdered potassium hydroxide (0.448 g, 0.008 mol) was added and heated at 120° C. for 2 h. 1-(2-Bromo-ethyl)-4-ethoxy-benzene (0.228 g, 0.001 mol) was added at the same temperature and stir for 3 h. at RT (TLC showed incomplete reaction). Reaction mixture was diluted with water (30 mL) and extracted with ethyl acetate (3×100 mL). Organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure using rotary evaporator. The crude was purified through column chromatography (4% MeOH:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch) to provide the desired compound as light yellow oil (0.035 g, 10% yield). 5-[2-(4-Ethoxy-phenyl)-ethyl]-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.035 g, 0.0001 mol) was dissolved in THF (0.5 mL), A solution of oxalic acid dihydrate (0.013 g, 0.0001 mol) in THF (0.5 mL) was added and stirred for 30 min at RT. The precipitate was filtered and dried to give oxalate salt as off white solid (0.015 g, 34% yield).

reactant | 2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.001 mol, 0.2 g | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | potassium hydroxide | 0.008 mol, 0.448 g | [OH-].[K+]
reactant | 1-(2-Bromo-ethyl)-4-ethoxy-benzene | 0.001 mol, 0.228 g | BrCCC1=CC=C(C=C1)OCC | C10H13BrO
solvent | N-methyl 2-pyrolidone | 3.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 30 mL | O | H2O
product | 5-[2-(4-Ethoxy-phenyl)-ethyl]-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.035 g, 10% yield | C(C)OC1=CC=C(C=C1)CCN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C23H28N2O
